US08536173B2
In a three-necked flask under nitrogen, 0.49 g of tert-butyl ester of {5-[(benzyl-phenylacetyl-amino)-methyl]adamantan-2-yl}-carbamic acid is dissolved in 1.7 ml of anhydrous dichloromethane. It is cooled to 0° C. and 3.64 ml of 4N solution of hydrochloric acid in dioxane is added. The reaction mixture is stirred for 1 h at room temperature and then concentrated to dryness. 20 ml of water is added, the reaction mixture is basified with potassium carbonate and it is extracted with dichloromethane until exhaustion of the aqueous phase. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated to dryness. 0.35 g of N-(4-amino-adamantan-1-ylmethyl)-N-benzyl-2-phenyl-acetamide is obtained, and is used subsequently as it is.

reactant | {5-[(benzyl-phenylacetyl-amino)-methyl]adamantan-2-yl}-carbamic acid | C(C1=CC=CC=C1)N(C(CC1=CC=CC=C1)=O)CC12CC3C(C(CC(C1)C3)C2)NC(O)=O | C27H32N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-amino-adamantan-1-ylmethyl)-N-benzyl-2-phenyl-acetamide | 0.35 g | NC1C2CC3(CC(CC1C3)C2)CN(C(CC2=CC=CC=C2)=O)CC2=CC=CC=C2 | C26H32N2O
